US07427613B2
Cyclopropyl-(2-methylbenzyl)amine
Synthesized according to typical procedure J from 2-methylbenzaldehyde and cyclopropylamine.

reactant | 2-methylbenzaldehyde | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(2-methylbenzyl)amine | C1(CC1)NCC1=C(C=CC=C1)C | C11H15N
